US09108969B2
Step C: Preparation of 2-(Benzyloxy)-7,8-dihydropyrido[1,2-a]indol-9(6H)-one
The reaction mixture of ethyl 2-(benzyloxy)-9-hydroxy-6,7-dihydropyrido[1,2-a]indole-8-carboxylate (1.22 g, 3.36 mmol) in acetic acid (36 mL) and H2O (3 mL) was heated at 220° C. for 10 min under microwave irradiation. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography to give the title compound (780 mg) as a yellow solid. LCMS m/z=292.3 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 2.38-2.45 (m, 2H), 2.73 (t, J=6.4 Hz, 2H), 4.23 (t, J=5.9 Hz, 2H), 5.11 (s, 2H), 7.15 (dd, J=8.9, 2.4 Hz, 1H), 7.18 (d, J=2.3 Hz, 1H), 7.22 (s, 1H), 7.25-7.30 (m, 1H), 7.30-7.35 (m, 1H), 7.36-7.42 (m, 2H), 7.45-7.50 (m, 2H).

reactant | ethyl 2-(benzyloxy)-9-hydroxy-6,7-dihydropyrido[1,2-a]indole-8-carboxylate | 3.36 mmol, 1.22 g | C(C1=CC=CC=C1)OC=1C=C2C=C3N(C2=CC1)CCC(=C3O)C(=O)OCC | C22H21NO4
solvent | acetic acid | 36 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 3 mL | O | H2O
product | 2-(Benzyloxy)-7,8-dihydropyrido[1,2-a]indol-9(6H)-one | 780 mg | C(C1=CC=CC=C1)OC=1C=C2C=C3N(C2=CC1)CCCC3=O | C19H17NO2
